US07087626B2
(R)-5-Benzyloxymethyl-dihydro-furan-2-one
To a solution of (R)-5-hydroxymethyl-dihydro-furan-2-one (5 g, 43.06 mmol) in tetrahydrofuran (130 mL) is added sodium hydride (2.58 g, 60% oil dispersion, 64.59 mmol) and tetrabutylammonium iodide (spatula) and stirred for 30 min. To the mixture is added benzyl bromide (6.18 mL, 51.67 mmol) and refluxed for 3 h. The mixture is cooled and diluted with ethyl acetate (150 mL), washed with a saturated solution of ammonium chloride (150 mL) and brine. The mixture is dried over magnesium sulfate, filtered and concentrated in vacuo to yield the title compound, 8.87 g (100%), as a pale yellow oil.

reactant | (R)-5-hydroxymethyl-dihydro-furan-2-one | 43.06 mmol, 5 g | OC[C@H]1CCC(O1)=O | C5H8O3
reactant | sodium hydride | 64.59 mmol, 2.58 g | [H-].[Na+]
reactant | benzyl bromide | 51.67 mmol, 6.18 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | (R)-5-Benzyloxymethyl-dihydro-furan-2-one | C(C1=CC=CC=C1)OC[C@H]1CCC(O1)=O | C12H14O3
